US04855322
Alpha and beta isomers of 2-(5-acetoxypent-1-yl)bicyclo[3.3.0]octan-7-one {4-[5-(acetyloxy)pentyl]hexahydro-2(1H)-pentalenone}
The starting material 2-(5-hydroxypent-1-yl)bicyclo[3.3.0]octan-7-one {hexahydro-4-(5-hydroxypentyl)-2(1H)-pentalenone} (0.8 g, 3.8 mmoles) is diluted with glacial acetic acid (7 ml). The reaction is stirred and heated in a 75° C. oil bath for 24 hours, after which time water (20 ml) is added and the reaction partitioned between ether. The ether layer is separated and the aqueous phase extracted again with ether (2×50 ml). The extracts and the organic phase are combined and neutralized with saturated sodium bicarbonate. The organic phase is dried over anhydrous magnesium sulfate and the remained solvent removed under vacuum leaving a pale yellow oil. The product is kugelrohred under reduced pressure leaving a clear, colorless oil (0.5 g, 2.0 mmoles).

reactant | 2-(5-hydroxypent-1-yl)bicyclo[3.3.0]octan-7-one | OCCCCCC1C2CC(CC2CC1)=O | C13H22O2
reactant | (5-hydroxypent-1-yl)bicyclo-[3.3.0]octan-7-one | OCCCCCC12CCCC2CC(C1)=O | C13H22O2
reactant | water | 20 ml | O | H2O
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
product | 2-(5-acetoxypent-1-yl)bicyclo[3.3.0]octan-7-one | 2.0 mmoles, 0.5 g | C(C)(=O)OCCCCCC1C2CC(CC2CC1)=O | C15H24O3
